US03954889
112 g (2 mol) of isobutylene were pumped for 1 hour into 136 g (1 mol) of 4-isopropyl-phenol in 100 ml of toluene and 30 g of an acid activated Fuller's earth in an autoclave with stirring at 150°C. The reaction mixture was then stirred for 6 hours at 150°C. After removal of the catalyst by filtration, 120 g of pure 1,1,3,3-tetramethyl-5-hydroxyindane were obtained by fractional distillation; Bp12 : 144°C; Mp: 119°C. ##SPC11##

reactant | isobutylene | 2 mol, 112 g | CC(C)=C | C4H8
reactant | 4-isopropyl-phenol | 1 mol, 136 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1,3,3-tetramethyl-5-hydroxyindane | 120 g | CC1(CC(C2=CC(=CC=C12)O)(C)C)C | C13H18O
